US07173139B2
(R)-4-Oxo-2-(4-dimethylamino-phenyl)-butyric acid methyl ester (Table 2, entries 1 & 2):
A solution of (R)-4- oxo-2-(4-dimethylamino-phenyl)-butyric acid methyl ester (1.78 g, 7.55 mmol, 1.00 equiv) in CH2Cl2 was added to a stirring suspension of lithium aluminum hydride (1.13 g, 29.8 mmol, 4.0 equiv) in Et2O (45 mL). After 5 min, this mixture was diluted with saturated aqueous sodium potassium tartrate (100 mL) and Et2O (100 mL) and allowed to stir for an additional 8 h. The organic layer was separated, washed with saturated aqueous NaCl, dried over Na2SO4, and concentrated in vacuo. The resulting residue was recrystallized from a hexanes, Et2O and DCM to give 0.630 g (3.01 mmol, 40% yield) of a white solid assigned as S9; [α]D=−23.1 (c=0.975, CHCl3). This compound was then exposed to tert-butyldimethylsilyl chloride (907 mg, 6.02 mmol, 2.00 equiv), triethylamine (0.93 mL, 6.62 mmol, 2.2 equiv), and in CH2Cl2 (5.0 mL). After 5.5 h, the reaction mixture was subjected directly to silica gel chromatography. Gradient elution with 1–10% EtOAc in hexanes followed by concentration in vacuo afforded S10 as a faint-yellow oil in 49% yield (643 mg, 1.47 mmol); [α]D=−23.1 (c=0.975, CHCl3). This oil was dissolved in CH3I (0.52 mL, 8.4 mmol, 5 equiv) and stirred for 10 h and subsequently concentrated in vacuo to provide a yellow microcrystalline solid in 97% yield (825 mg, 1.42 mmol). A portion of the ammonium salt (100 mg, 0.170 mmol, 1.00 equiv) was suspended in THF (20 mL) and added to a stirring solution of dissolved sodium (15.9 mg, 0.690 mmol, 4.00 equiv) in freshly condensed liquid ammonia (25 ml) at −78° C. After 30 min, the reaction mixture was quenched with excess methanol, diluted with ether (20 mL) and allowed to warm to ambient temperature. The ethereal solution was washed with aqueous HCl (1N) and saturated NaCl and subsequently dried over Na2SO4. This residue was purified by silica gel chromatography to afford 61.1 mg of S11 (0.155 mmol, 91% yield); [α]D=−28.7 (c=1.01, CHCl3). This compound was treated with aqueous HCl (4N, 1.0 mL) and THF (1.0 mL) and stirred at ambient temperature for 16 h. Dilution of the reaction mixture with CH2Cl2 and saturated aqueous NaHCO3 and subsequent separation, drying and concentration of the organic phase yielded a pale yellow oil. This compound was subjected to silica gel chromatography to afford 5.0 mg (30 μmol, 19% yield) of a substance that was spectroscopically identical in all respects to the known compound (S)-2-phenyl-butan-1,4,-diol.6 [α]D (literature)=−13 (c=3.0, CHCl3); [α]D (observed)=−29.8 (c=0.50, CHCl3).

reactant | tert-butyldimethylsilyl chloride | 6.02 mmol, 907 mg, 2.00 equiv | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 6.62 mmol, 0.93 mL, 2.2 equiv | C(C)N(CC)CC | C6H15N
reactant | CH3I | 8.4 mmol, 0.52 mL, 5 equiv | CI | CH3I
reactant | sodium | 0.690 mmol, 15.9 mg, 4.00 equiv | [Na] | Na
reactant | ammonia | 25 ml | N | H3N
reactant | HCl | 4N, 1.0 mL | Cl | ClH
reactant | (S)-2-phenyl-butan-1,4,-diol | C1(=CC=CC=C1)[C@@H](CO)CCO | C10H14O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (R)-4-Oxo-2-(4-dimethylamino-phenyl)-butyric acid methyl ester | COC([C@H](CC=O)C1=CC=C(C=C1)N(C)C)=O | C13H17NO3
